US08030311B2
N-(4-Diethylaminomethyl-3-trifluoromethyl-phenyl)-2-(4-imidazo[4,5-b]pyridin-3-yl-2-methyl-Phenyl)-acetamide
The title compound is prepared as described in Example 7 but using (4-imidazo[4,5-b]pyridin-3-yl-2-methyl-phenyl)-acetic acid and 4-diethylaminomethyl-3-trifluoromethyl-phenylamine (disclosed in WO2005/051366). Title compound: ES-MS: 496.0 [M+H]+; tR=3.31 min (System 1); Rf=0.43 (CH2Cl2/MeOH, 95:5+0.1% NH3aq).

reactant | (4-imidazo[4,5-b]pyridin-3-yl-2-methyl-phenyl)-acetic acid | N1=CN(C2=NC=CC=C21)C2=CC(=C(C=C2)CC(=O)O)C | C15H13N3O2
reactant | 4-diethylaminomethyl-3-trifluoromethyl-phenylamine | C(C)N(CC)CC1=C(C=C(C=C1)N)C(F)(F)F | C12H17F3N2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N-(4-Diethylaminomethyl-3-trifluoromethyl-phenyl)-2-(4-imidazo[4,5-b]pyridin-3-yl-2-methyl-Phenyl)-acetamide | C(C)N(CC)CC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)N1C=NC=2C1=NC=CC2)C)=O)C(F)(F)F | C27H28F3N5O
